US06794395B1
(4) 6-benzenesulphonylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone
Prepared from 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone and benzenesulphonyl chloride

reactant | 6-amino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | NC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C27H28N4O
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 6-benzenesulphonylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C33H32N4O3S
